US06794395B1
(48) 3-(Z)-(1-{4-[(N-benzyl-N-methyl-amino)-methyl]-anilino} 1-phenyl-methylidene)-6-methoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-methoxy-2-indolinone and 4-[(N-benzyl-N-methyl-amino)-methyl]-aniline

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-methoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)OC)=C(C1=CC=CC=C1)OCC)=O | C20H19NO4
reactant | 4-[(N-benzyl-N-methyl-amino)-methyl]-aniline | C(C1=CC=CC=C1)N(C)CC1=CC=C(N)C=C1 | C15H18N2
product | 3-(Z)-(1-{4-[(N-benzyl-N-methyl-amino)-methyl]-anilino} 1-phenyl-methylidene)-6-methoxy-2-indolinone | C(C1=CC=CC=C1)N(C)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)OC)=O)C=C1 | C31H29N3O2
